US04638067
1-Cyclopropyl-7-[3-[(ethylamino)methyl]-1-pyrrolidinyl]-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A mixture of 1.00 g (3.53 mmole) of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 10 ml of acetonitrile, 0.54 g (3.5 mmole) 1,8-diazobicyclo[5.4.0]undec-7-ene, and 0.48 g (3.7 mmole) of N-ethyl-3-pyrrolidinemethanamine is refluxed one hour, then stirred at room temperature overnight. The reaction mixture is then filtered and the precipitate washed with ethyl ether until dry to yield 1.22 g (88.4%) of the title compound, mp 256°-258° C.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 3.53 mmole, 1.00 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | N-ethyl-3-pyrrolidinemethanamine | 3.7 mmole, 0.48 g | C(C)NCC1CNCC1 | C7H16N2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-Cyclopropyl-7-[3-[(ethylamino)methyl]-1-pyrrolidinyl]-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.22 g, 88.4% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(CC1)CNCC)F)=O)C(=O)O | C20H23F2N3O3
